US06011044
Preparation of 1-(2-methyl-4-fluorophenyl)-4-methylamino-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline
1-(2-Methyl-4-fluorophenyl)-4-chloro-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline(700 mg, 1.7 mmol) was dissolved in aqueous solution of methylamine(40%, 5.0 ml) and the reaction mixture was refluxed at 180° C. for 15 hours in the pressure tube. The reaction mixture was dissolved in water, extracted with dichloromethane, and the organic layer was washed with water for 3 times. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography(ethyl acetate:hexane=1:1) to obtain 440 mg of desired compound as solid in 64% of yield.

reactant | 1-(2-Methyl-4-fluorophenyl)-4-chloro-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 1.7 mmol, 700 mg | CC1=C(C=CC(=C1)F)N1CCC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)Cl | C20H15ClF4N2O
reactant | methylamine | 5.0 ml | CN | CH5N
solvent | water | O | H2O
product | 1-(2-methyl-4-fluorophenyl)-4-methylamino-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 440 mg | CC1=C(C=CC(=C1)F)N1CCC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)NC | C21H19F4N3O
